US06924374B2
1-Ethyl-4-(4-Methyl-3-nitro-phenyl)-piperazine
Beginning with 1-(4-methyl-3-nitro-phenyl)-piperazine and 1-bromoethane, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 249 (M+, 53), 234 (47), 84 (36), 57 (bp), 56 (46).

reactant | 1-(4-methyl-3-nitro-phenyl)-piperazine | CC1=C(C=C(C=C1)N1CCNCC1)[N+](=O)[O-] | C11H15N3O2
reactant | 1-bromoethane | BrCC | C2H5Br
product | 1-Ethyl-4-(4-Methyl-3-nitro-phenyl)-piperazine | C(C)N1CCN(CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H19N3O2
